US04472305
Condensation of BocDTrp-LeuOH (Example 38, 2.09 g.) and MeNleNH2 (1.00 g.) using dicyclohexylcarbodiimide and 1-hydroxybenzotriazole gave BocDTrp-Leu-MeNleNH2 in 99% yield. De-t-butoxycarbonylation of BocDTrp-Leu-MeNleNH2 (2.50 g.) using trifluoroacetic acid in dimethyl sulfide and ethanedithiol gave HDTrp-Leu-MeNleNH2 in 37% yield.

reactant | BocDTrp-Leu-MeNleNH2 | 2.50 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N([C@@H](CCCC)C(=O)N)C)C(=O)OC(C)(C)C | C29H45N5O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethyl sulfide | CSC | C2H6S
solvent | ethanedithiol | C(C)(S)S | C2H6S2
product | HDTrp-Leu-MeNleNH2 | 37% yield | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N([C@@H](CCCC)C(=O)N)C | C24H37N5O3
